US07192943B2
To a solution of di-tert-butyl [iminobis(2,1-ethanediyl)]biscarbamate (2.13 g) and 3-ethoxy-4-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3-cyclobutene-1,2-dione (1.91 g) in chloroform (10 ml) was added triethylamine (0.558 ml), and the mixture was stirred under reflux. After 9 hours, additional di-tert-butyl [iminobis(2,1-ethanediyl)]biscarbamate (1.82 g) was added to the reaction mixture, and the mixture was stirred under reflux for 1 day. To the reaction mixture was added diethyl ether, and the solution was washed successively with 5% aqueous citric acid solution, water and brine. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was chromatographed on silica gel eluting with methylene chloride/methanol (20:1) to give di-tert-butyl {[(2-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3,4-dioxocyclobut-1-en-1-yl)imino]bis(2,1-ethanediyl)}biscarbamate (1.84 g) as a solid.

reactant | di-tert-butyl [iminobis(2,1-ethanediyl)]biscarbamate | 2.13 g | N(CCNC(OC(C)(C)C)=O)CCNC(OC(C)(C)C)=O | C14H29N3O4
reactant | 3-ethoxy-4-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3-cyclobutene-1,2-dione | 1.91 g | C(C)OC=1C(C(C1NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)=O)=O | C29H26N4O3
reactant | triethylamine | 0.558 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl [iminobis(2,1-ethanediyl)]biscarbamate | 1.82 g | N(CCNC(OC(C)(C)C)=O)CCNC(OC(C)(C)C)=O | C14H29N3O4
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | di-tert-butyl {[(2-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3,4-dioxocyclobut-1-en-1-yl)imino]bis(2,1-ethanediyl)}biscarbamate | 1.84 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC1=C(C(C1=O)=O)N(CCNC(OC(C)(C)C)=O)CCNC(OC(C)(C)C)=O | C41H49N7O6
